US07208500B2
Intermediate 79a: acetoxy-(4-methoxy-phenyl)-acetic acid
4-Methoxymandelic acid (5.00 g, 27.44 mmol) was dissolved in 100 mL of THF. To this solution was added acetic anhydride (2.85 mL, 30.18 mmol), followed by Et3N (10 mL). The resulting mixture was stirred at room temperature overnight, concentrated, re-suspended in water, and extracted with EtOAc. The combined organic phase was dried over Na2SO4, and concentrated to give 5.95 g yellow syrup as the intermediate 79a. 1H NMR (300 MHz, CDCl3) δ 7.38 (d, 2H, J=8.67 Hz), 6.90 (d, 2H, J=8.67 Hz), 5.87 (s, 1H), 3.80 (s, 3H), 2.16 (s, 3H). LCMS (ESI−) [M−H]/z Calc'd 223, found 223.

reactant | 4-Methoxymandelic acid | 27.44 mmol, 5.00 g | COC1=CC=C(C(C(=O)O)O)C=C1 | C9H10O4
reactant | acetic anhydride | 30.18 mmol, 2.85 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Et3N | 10 mL | CCN(CC)CC | C6H15N
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | acetoxy-(4-methoxy-phenyl)-acetic acid | 5.95 g | C(C)(=O)OC(C(=O)O)C1=CC=C(C=C1)OC | C11H12O5
